US05677326
A 24 g portion of the above mentioned (-)-5-(2,3-dihydroindol-1-yl)carbonyl-4,5,6,7-tetrahydrobenzimidazole was dissolved in 120 ml of 6N hydrochloric acid and heated under reflux for 3 hours. The reaction solution was evaporated to dryness under reduced pressure to obtain a residue which was then dissolved in water, made alkaline with an aqueous sodium hydroxide solution, and washed with ethyl ether. Subsequent acidification of the aqueous layer with hydrochloric acid and concentration under reduced pressure yielded a white powder of (+)-4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid hydrochloride containing NaCl.

reactant | (-)-5-(2,3-dihydroindol-1-yl)carbonyl-4,5,6,7-tetrahydrobenzimidazole | N1(CCC2=CC=CC=C12)C(=O)C1CC2=C(N=CN2)CC1 | C16H17N3O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 6N, 120 ml | Cl | ClH
solvent | water | O | H2O
product | (+)-4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid hydrochloride | Cl.N1=CNC2=C1CCC(C2)C(=O)O | InChI=1S/C8H10N2O2.ClH/c11-8(12)5-1-2-6-7(3-5)10-4-9-6;/h4-5H,1-3H2,(H,9,10)(H,11,12);1H
